US05461067
B. N-((2-Pyridinyl)methoxycarbonyl)valine Methyl Ester
A solution of 0.78 g (5.0 mmol) of α-isocyanato-valine methyl ester and 0.55 ml (5.7 mmol) of pyridine-2-methanol in 30 mL of toluene was heated at reflux under N2 atmosphere for 4 h. The solvent was removed in vacuo, and the residue was purified by silica gel chromatography using 2% methanol in chloroform to give 0.72 g (54%) of the desired compound as an oil.

reactant | α-isocyanato-valine methyl ester | 5.0 mmol, 0.78 g | COC([C@@](N)(C(C)C)N=C=O)=O | C7H12N2O3
reactant | pyridine-2-methanol | 5.7 mmol, 0.55 ml | N1=C(C=CC=C1)CO | C6H7NO
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | N-((2-Pyridinyl)methoxycarbonyl)valine Methyl Ester | 0.72 g, 54% | COC([C@@H](NC(=O)OCC1=NC=CC=C1)C(C)C)=O | C13H18N2O4
